US07071182B2
5-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole
A mixture of 5-nitroindazole (3.00 g, 18.4 mmol) and potassium carbonate (7.50 g, 54.4 mmol) in DMF (60 mL) was stirred for 30 minutes after which 1-(2-chloro-ethyl)-pyrrolidine hydrochloride (4.80 g, 28.4 mmol) was added. The mixture was heated to 60° C. for 6 hours, cooled to room temperature and filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure and the residue purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30) to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.60 (m, 4H), 2.44 (m, 4H), 2.90 (t, 2H, J=6.45), 4.59 (t, 2H, J=6.45), 7.90 (m, 1H), 8.20 (m, 1H), 8.39 (s, 1H), 8.80 (s, 1H); MS (DCI/NH3) m/z 261 [M+H]+.

reactant | 5-nitroindazole | 18.4 mmol, 3.00 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | potassium carbonate | 54.4 mmol, 7.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloro-ethyl)-pyrrolidine hydrochloride | 28.4 mmol, 4.80 g | Cl.ClCCN1CCCC1
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 5-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)CCN1CCCC1 | C13H16N4O2
